US08022223B2
N-(5-Bromo-3-phenoxypyridin-2-yl)-4-phenethylthiazol-2-amine
Prepared according to the method of Example 7 Step E from 1-(5-bromo-3-phenoxypyridin-2-yl)thiourea and 1-bromo-4-phenylbutan-2-one. 1H NMR (d6-DMSO) δ 8.26 (m, 1H), 7.45 (m, 3H), 7.31-7.11 (m, 8H), 6.74 (s, 1H), 2.92 (m, 4H). Mass spectrum (apci) m/z 452.3 (M+H).

reactant | 1-(5-bromo-3-phenoxypyridin-2-yl)thiourea | BrC=1C=C(C(=NC1)NC(=S)N)OC1=CC=CC=C1 | C12H10BrN3OS
reactant | 1-bromo-4-phenylbutan-2-one | BrCC(CCC1=CC=CC=C1)=O | C10H11BrO
product | N-(5-Bromo-3-phenoxypyridin-2-yl)-4-phenethylthiazol-2-amine | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC1=CC=CC=C1)OC1=CC=CC=C1 | C22H18BrN3OS
